US04423212
Following the procedure described in Preparation 2, Part C, above, but substituting the 1-n-butyl-5-azauracil prepared in Part B, above, for the 1-methyl-5-azauracil, there is prepared 40 gm. (67% yield) of the desired new precursor 5-n-butyl-5,6-dihydro-s-triazine-2,4-(1H,3H)-dione having a melting point of 205° C. to 207° C.

reactant | 1-n-butyl-5-azauracil | C(CCC)N1C(=O)NC(=O)N=C1 | C7H11N3O2
reactant | 1-methyl-5-azauracil | CN1C(=O)NC(=O)N=C1 | C4H5N3O2
product | 5-n-butyl-5,6-dihydro-s-triazine-2,4-(1H,3H)-dione | 67% yield | C(CCC)N1C(NC(NC1)=O)=O | C7H13N3O2
